### PR TITLE
[Merged by Bors] - feat: add definition of and statements about the set of smooth numbers

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
We define the set `Nat.smoothNumbers n` consisting of the positive natural numbers all of
whose prime factors are strictly less than `n`.

We also define the finite set `Nat.primesBelow n` to be the set of prime numbers less than `n`.

The main definition `Nat.equivProdNatSmoothNumbers` establishes the bijection between
`ℕ × (smoothNumbers p)` and `smoothNumbers (p+1)` given by sending `(e, n)` to `p^e * n`.
Here `p` is a prime number.

This is in preparation of Euler Products; see [this Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Euler.20products/near/400111270).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 1]
```diff
@@ -0,0 +1,155 @@
...
+  refine hpq.symm ▸ ?_
+  simpa only [decide_eq_true_eq] using List.of_mem_filter hq₁
+
+/-- The sets of `N`-smooth and of `(N+1)`-smooth numbers are the same when `N` is not prime. -/
+lemma smoothNumbers_succ {N : ℕ} (hN : ¬ N.Prime) : N.succ.smoothNumbers = N.smoothNumbers := by
+  ext m
+  refine ⟨fun hm ↦ ⟨hm.1, fun p hp ↦ ?_⟩,
+         fun hm ↦ ⟨hm.1, fun p hp ↦ (hm.2 p hp).trans <| lt.base N⟩⟩
+  have H : p ≠ N := fun h ↦ hN <| h ▸ prime_of_mem_factors hp
+  exact Nat.lt_of_le_of_ne (lt_succ.mp <| hm.2 p hp) H
```
Comment (b-mehta) [inline Mathlib/NumberTheory/SmoothNumbers.lean:79]:
```suggestion
@[gcongr] lemma smoothNumbers_mono {N M : ℕ} (hNM : N ≤ M) : N.smoothNumbers ⊆ M.smoothNumbers :=
  fun _ hx => ⟨hx.1, fun p hp => (hx.2 p hp).trans_le hNM⟩

/-- The sets of `N`-smooth and of `(N+1)`-smooth numbers are the same when `N` is not prime. -/
lemma smoothNumbers_succ {N : ℕ} (hN : ¬ N.Prime) : N.succ.smoothNumbers = N.smoothNumbers := by
  ext m
  refine ⟨fun hm ↦ ⟨hm.1, fun p hp ↦ ?_⟩, (smoothNumbers_mono (le_succ N) ·)⟩
  have H : p ≠ N := fun h ↦ hN <| h ▸ prime_of_mem_factors hp
  exact H.lt_of_le (lt_succ.mp <| hm.2 p hp)
```
I think it's worth having this monotonicity lemma.

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 2]
```diff
@@ -0,0 +1,155 @@
...
+Here `p` is a prime number.
+-/
+
+namespace Nat
+
+/-- `primesBelow n` is the set of primes less than `n` as a finset. -/
+def primesBelow (n : ℕ) : Finset ℕ := (Finset.range n).filter (fun p ↦ p.Prime)
+
+@[simp]
+lemma primesBelow_zero : primesBelow 0 = ∅ := rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/SmoothNumbers.lean:28]: This is true definitionally, but I'm not sure that's guaranteed. I'd be inclined to use the API with
```suggestion
lemma primesBelow_zero : primesBelow 0 = ∅ := by
  rw [primesBelow, Finset.range_zero, Finset.filter_empty]
```

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 3]
```diff
@@ -0,0 +1,155 @@
...
+
+lemma prime_of_mem_primesBelow {p n : ℕ} (h : p ∈ n.primesBelow) : p.Prime :=
+  (Finset.mem_filter.mp h).2
+
+lemma lt_of_mem_primesBelow {p n : ℕ} (h : p ∈ n.primesBelow) : p < n :=
+  List.mem_range.mp <| Finset.mem_of_mem_filter p h
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/SmoothNumbers.lean:34]:
```suggestion
  Finset.mem_range.mp <| Finset.mem_of_mem_filter p h
```

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 4]
```diff
@@ -0,0 +1,155 @@
...
+
+lemma primesBelow_succ (n : ℕ) :
+    primesBelow n.succ = if n.Prime then insert n (primesBelow n) else primesBelow n := by
+  rw [primesBelow, primesBelow, Finset.range_succ, Finset.filter_insert]
+
+lemma not_mem_primesBelow (n : ℕ) : n ∉ primesBelow n := by
+  intro hn
+  simp [primesBelow] at hn
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/SmoothNumbers.lean:42]: Golfing opportunity:
```suggestion
lemma not_mem_primesBelow (n : ℕ) : n ∉ primesBelow n := by
  intro hn
  exact (lt_of_mem_primesBelow hn).false
```
or
```suggestion
lemma not_mem_primesBelow (n : ℕ) : n ∉ primesBelow n :=
  fun hn => (lt_of_mem_primesBelow hn).false
```

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 5]
```diff
@@ -0,0 +1,155 @@
...
+  have H : p ≠ N := fun h ↦ hN <| h ▸ prime_of_mem_factors hp
+  exact Nat.lt_of_le_of_ne (lt_succ.mp <| hm.2 p hp) H
+
+/-- The non-zero noon-`N`-smooth numbers are `≥ N`. -/
+lemma smoothNumbers_compl (N : ℕ) : (N.smoothNumbers)ᶜ \ {0} ⊆ {n | N ≤ n} := by
+  intro n hn
+  have H := Set.mem_diff_singleton.mp hn
+  have H₁ := (Set.mem_compl_iff _ _).mp H.1
+  simp only [Nat.smoothNumbers, Set.mem_setOf_eq, not_and, not_forall, not_lt, exists_prop] at H₁
+  obtain ⟨m, hm₁, hm₂⟩ := H₁ H.2
```
Comment (b-mehta) [inline Mathlib/NumberTheory/SmoothNumbers.lean:87]:
```suggestion
  simp only [Set.mem_compl_iff, mem_smoothNumbers, Set.mem_diff, ne_eq, not_and, not_forall, not_lt,
    exists_prop, Set.mem_singleton_iff] at hn
  obtain ⟨m, hm₁, hm₂⟩ := hn.1 hn.2
```

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 6]
```diff
@@ -0,0 +1,155 @@
...
+
+/-- If `p` is a prime and `n` is `p`-smooth, then every product `p^e * n` is `(p+1)`-smooth. -/
+lemma Prime.pow_mul_mem_smoothNumbers {p n : ℕ} (hp : p.Prime) (e : ℕ) (hn : n ∈ smoothNumbers p) :
+    p ^ e * n ∈ smoothNumbers (succ p) := by
+  have hp' (e : ℕ) : p ^ e ≠ 0 := pow_ne_zero e hp.ne_zero
+  refine ⟨mul_ne_zero (hp' e) hn.1, fun q hq ↦ ?_⟩
+  rcases (mem_factors_mul (hp' e) hn.1).mp hq with H | H
+  · rw [mem_factors <| hp' e] at H
+    exact lt_succ.mpr <| le_of_dvd hp.pos <| Prime.dvd_of_dvd_pow H.1 H.2
+  · exact (hn.2 q H).trans <| lt.base p
```
Comment (b-mehta) [inline Mathlib/NumberTheory/SmoothNumbers.lean:98]:
```suggestion
/-- If `p` is positive and `n` is `p`-smooth, then every product `p^e * n` is `(p+1)`-smooth. -/
lemma pow_mul_mem_smoothNumbers {p n : ℕ} (hp : p ≠ 0) (e : ℕ) (hn : n ∈ smoothNumbers p) :
    p ^ e * n ∈ smoothNumbers (succ p) := by
  have hp' (e : ℕ) : p ^ e ≠ 0 := pow_ne_zero e hp
  refine ⟨mul_ne_zero (hp' e) hn.1, fun q hq ↦ ?_⟩
  rcases (mem_factors_mul (hp' e) hn.1).mp hq with H | H
  · rw [mem_factors <| hp' e] at H
    exact lt_succ.mpr <| le_of_dvd hp.bot_lt <| Prime.dvd_of_dvd_pow H.1 H.2
  · exact (hn.2 q H).trans <| lt.base p
```
This is true without the assumption that `p` is prime, it's enough for it to be positive.

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 7]
```diff
@@ -0,0 +1,155 @@
...
+  simpa only [decide_eq_true_eq] using List.of_mem_filter hq₁
+
+/-- The sets of `N`-smooth and of `(N+1)`-smooth numbers are the same when `N` is not prime. -/
+lemma smoothNumbers_succ {N : ℕ} (hN : ¬ N.Prime) : N.succ.smoothNumbers = N.smoothNumbers := by
+  ext m
+  refine ⟨fun hm ↦ ⟨hm.1, fun p hp ↦ ?_⟩,
+         fun hm ↦ ⟨hm.1, fun p hp ↦ (hm.2 p hp).trans <| lt.base N⟩⟩
+  have H : p ≠ N := fun h ↦ hN <| h ▸ prime_of_mem_factors hp
+  exact Nat.lt_of_le_of_ne (lt_succ.mp <| hm.2 p hp) H
+
```
Comment (b-mehta) [inline Mathlib/NumberTheory/SmoothNumbers.lean:80]:
```suggestion
@[simp] lemma smoothNumbers_one : smoothNumbers 1 = {1} := by simp [smoothNumbers_succ]
```
You could add this, if you like.

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 8]
```diff
@@ -0,0 +1,155 @@
...
+@[simp]
+lemma smoothNumbers_zero : smoothNumbers 0 = {1} := by
+  have h (m : ℕ) : (∀ p ∈ factors m, p < 0) ↔ m.factors = []
+  · rw [List.eq_nil_iff_forall_not_mem]
+    exact ⟨fun H p hp ↦ not_succ_le_zero p (H p hp), fun H p hp ↦ False.elim <| H p hp⟩
+  ext m
+  rw [smoothNumbers, Set.mem_setOf, h, factors_eq_nil,
+      (show m ∈ ({1} : Set ℕ) ↔ m = 1 from Set.mem_def), Ne.def]
+  exact ⟨fun ⟨H₁, H₂⟩ ↦ H₂.resolve_left H₁, fun H ↦ ⟨H.symm ▸ one_ne_zero, Or.inr H⟩⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/SmoothNumbers.lean:56]: Alternative proof:
```suggestion
  ext m
  rw [Set.mem_singleton_iff, smoothNumbers, Set.mem_setOf]
  simp_rw [Nat.not_lt_zero]
  rw [← List.eq_nil_iff_forall_not_mem, factors_eq_nil, and_or_left, not_and_self_iff, false_or,
    ne_and_eq_iff_right zero_ne_one]
```
(Optional, but note in particular `Set.mem_singleton_iff`)

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 9]
```diff
@@ -0,0 +1,155 @@
...
+
+/-- If `p` is a prime and `n` is `p`-smooth, then `p` and `n` are coprime. -/
+lemma Prime.smoothNumbers_coprime {p n : ℕ} (hp : p.Prime) (hn : n ∈ smoothNumbers p) :
+    Nat.Coprime p n := by
+  rw [Prime.coprime_iff_not_dvd hp, ← mem_factors_iff_dvd hn.1 hp]
+  exact fun H ↦ lt_irrefl p <| hn.2 p H
+
+open List in
+/-- We establish the bijection from `ℕ × smoothNumbers p` to `smoothNumbers (p+1)`
+given by `(e, n) ↦ p^e * n` when `p` is a prime. -/
```
Comment (b-mehta) [inline Mathlib/NumberTheory/SmoothNumbers.lean:108]: It might be nice here to mention `smoothNumbers_succ` to show what happens if `p` isn't prime, and vice versa?

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 10]
```diff
@@ -0,0 +1,155 @@
...
+      (show m ∈ ({1} : Set ℕ) ↔ m = 1 from Set.mem_def), Ne.def]
+  exact ⟨fun ⟨H₁, H₂⟩ ↦ H₂.resolve_left H₁, fun H ↦ ⟨H.symm ▸ one_ne_zero, Or.inr H⟩⟩
+
+/-- The product of the prime factors of `n` that are less than `N` is an `N`-smooth number. -/
+lemma prod_mem_smoothNumbers (n N : ℕ) : (n.factors.filter (· < N)).prod ∈ smoothNumbers N := by
+  have h₀ : (n.factors.filter (· < N)).prod ≠ 0
+  · simp only [ne_eq, List.prod_eq_zero_iff]
+    intro h
+    have H (p : ℕ) (h : p ∈ n.factors) : p ≠ 0 := Prime.ne_zero <| prime_of_mem_factors h
+    exact H 0 (List.mem_of_mem_filter h) rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/SmoothNumbers.lean:64]: Could be:
```suggestion
  · intro h
    rw [List.prod_eq_zero_iff, List.mem_filter] at h
    exact not_prime_zero <| prime_of_mem_factors h.1
```

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 11]
```diff
@@ -0,0 +1,155 @@
+/-
+Copyright (c) 2023 Michael Stoll. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Michael Stoll
+-/
+import Mathlib.LinearAlgebra.ExteriorAlgebra.Grading
```
Comment (b-mehta) [inline Mathlib/NumberTheory/SmoothNumbers.lean:6]:
```suggestion
```
This import seems to be redundant to me

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 12]
```diff
@@ -0,0 +1,155 @@
...
+
+/-- The product of the prime factors of `n` that are less than `N` is an `N`-smooth number. -/
+lemma prod_mem_smoothNumbers (n N : ℕ) : (n.factors.filter (· < N)).prod ∈ smoothNumbers N := by
+  have h₀ : (n.factors.filter (· < N)).prod ≠ 0
+  · simp only [ne_eq, List.prod_eq_zero_iff]
+    intro h
+    have H (p : ℕ) (h : p ∈ n.factors) : p ≠ 0 := Prime.ne_zero <| prime_of_mem_factors h
+    exact H 0 (List.mem_of_mem_filter h) rfl
+  refine ⟨h₀, fun p hp ↦ ?_⟩
+  have H := (mem_factors h₀).mp hp
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/SmoothNumbers.lean:66]: Or:
```suggestion
  refine ⟨h₀, fun p H ↦ ?_⟩
  rw [mem_factors h₀] at H
```

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 13]
```diff
@@ -0,0 +1,155 @@
...
+  obtain ⟨q, hq₁, hq₂⟩ := (Prime.dvd_prod_iff <| prime_iff.mp H.1).mp H.2
+  have hpq : p = q :=
+    (prime_dvd_prime_iff_eq H.1 <| prime_of_mem_factors <| List.mem_of_mem_filter hq₁).mp hq₂
+  refine hpq.symm ▸ ?_
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/SmoothNumbers.lean:70]: More readable as
```suggestion
  have hpq : p = q :=
    (prime_dvd_prime_iff_eq H.1 <| prime_of_mem_factors <| List.mem_of_mem_filter hq₁).mp hq₂
  rw [hpq]
```
or
```suggestion
  obtain rfl : p = q :=
    (prime_dvd_prime_iff_eq H.1 <| prime_of_mem_factors <| List.mem_of_mem_filter hq₁).mp hq₂
```

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 14]
```diff
@@ -0,0 +1,155 @@
...
+
+/-- The sets of `N`-smooth and of `(N+1)`-smooth numbers are the same when `N` is not prime. -/
+lemma smoothNumbers_succ {N : ℕ} (hN : ¬ N.Prime) : N.succ.smoothNumbers = N.smoothNumbers := by
+  ext m
+  refine ⟨fun hm ↦ ⟨hm.1, fun p hp ↦ ?_⟩,
+         fun hm ↦ ⟨hm.1, fun p hp ↦ (hm.2 p hp).trans <| lt.base N⟩⟩
+  have H : p ≠ N := fun h ↦ hN <| h ▸ prime_of_mem_factors hp
+  exact Nat.lt_of_le_of_ne (lt_succ.mp <| hm.2 p hp) H
+
+/-- The non-zero noon-`N`-smooth numbers are `≥ N`. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/SmoothNumbers.lean:81]:
```suggestion
/-- The non-zero non-`N`-smooth numbers are `≥ N`. -/
```

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 15]
```diff
@@ -0,0 +1,155 @@
...
+    Nat.Coprime p n := by
+  rw [Prime.coprime_iff_not_dvd hp, ← mem_factors_iff_dvd hn.1 hp]
+  exact fun H ↦ lt_irrefl p <| hn.2 p H
+
+open List in
+/-- We establish the bijection from `ℕ × smoothNumbers p` to `smoothNumbers (p+1)`
+given by `(e, n) ↦ p^e * n` when `p` is a prime. -/
+def equivProdNatSmoothNumbers {p : ℕ} (hp: p.Prime) :
+    ℕ × smoothNumbers p ≃ smoothNumbers p.succ where
+      toFun := fun ⟨e, n⟩ ↦ ⟨p ^ e * n, hp.pow_mul_mem_smoothNumbers e n.2⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/SmoothNumbers.lean:111]: Indentation is off here: `toFun` and the other fields should only be indented two spaces

**Review by Ruben-VandeVelde — COMMENTED** [review]
A number of minor style comments:

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 11 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:6]: OK, yes. It was suggested by `#minimize_imports`, and I didn't check.

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:33]: OK. `apply?` may be to blame :smile:

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 4 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:41]: I'll take that one.

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 16]
```diff
@@ -0,0 +1,155 @@
...
+    primesBelow n.succ = if n.Prime then insert n (primesBelow n) else primesBelow n := by
+  rw [primesBelow, primesBelow, Finset.range_succ, Finset.filter_insert]
+
+lemma not_mem_primesBelow (n : ℕ) : n ∉ primesBelow n := by
+  intro hn
+  simp [primesBelow] at hn
+
+/-- `smoothNumbers n` is the set of *`n`-smooth positive natural numbers*, i.e., the
+positive natural numbers all of whose prime factors are less than `n`. -/
+def smoothNumbers (n : ℕ) : Set ℕ := {m | m ≠ 0 ∧ ∀ p ∈ factors m, p < n}
```
[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:45]: OK, makes sense.

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 12 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:65]: OK.

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 17]
```diff
@@ -0,0 +1,155 @@
...
+    intro h
+    have H (p : ℕ) (h : p ∈ n.factors) : p ≠ 0 := Prime.ne_zero <| prime_of_mem_factors h
+    exact H 0 (List.mem_of_mem_filter h) rfl
+  refine ⟨h₀, fun p hp ↦ ?_⟩
+  have H := (mem_factors h₀).mp hp
+  obtain ⟨q, hq₁, hq₂⟩ := (Prime.dvd_prod_iff <| prime_iff.mp H.1).mp H.2
+  have hpq : p = q :=
+    (prime_dvd_prime_iff_eq H.1 <| prime_of_mem_factors <| List.mem_of_mem_filter hq₁).mp hq₂
+  refine hpq.symm ▸ ?_
+  simpa only [decide_eq_true_eq] using List.of_mem_filter hq₁
```
[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:70]: I don't think it gives that much more than `Prime.dvd_prod_iff` that is currently used, so I'll leave it at what Ruben has suggested.

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 1 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:78]: OK.

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 14 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:80]: Thanks. My keyboard does this sometimes...

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 7 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:79]: OK.

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 5 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:86]: OK.

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 6 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:97]: OK. (My use case is with `p` prime, of course, but generalizing does not really hurt.)

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 9 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:107]: OK.

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 15 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:110]: OK.

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 18]
```diff
@@ -0,0 +1,155 @@
...
+
+The main definition `Nat.equivProdNatSmoothNumbers` establishes the bijection between
+`ℕ × (smoothNumbers p)` and `smoothNumbers (p+1)` given by sending `(e, n)` to `p^e * n`.
+Here `p` is a prime number.
+-/
+
+namespace Nat
+
+/-- `primesBelow n` is the set of primes less than `n` as a finset. -/
+def primesBelow (n : ℕ) : Finset ℕ := (Finset.range n).filter (fun p ↦ p.Prime)
```
[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:24]: I think I will then put something like
```lean
primesBelow_card_eq_primeCounting' (n : ℕ) : n.primesBelow.card = primeCounting' n
```
into `Mathlib.NumberTheory.PrimeCounting` (unless there are objections regarding the location).

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:27]: OK.

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 17 above)
[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/NumberTheory/SmoothNumbers.lean]: It means you don't need to find another prime `q` and prove anything about whether they are equal or not - you can see that the proof of `mem_list_primes_of_dvd_prod` is already doing the `prime_dvd_prime_iff_eq` step for you.

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 8 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:57]: I'll take the second one.

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 17 above)
[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean]: OK, and one can inline `hp'`.

**Comment by ericrbg** [comment]
I haven't taken a close look (not on computer) but should the equiv be for any k such that p < k < next prime? I guess that's probably annoying to write and not that useful

**Comment by b-mehta** [comment]
That could also work, but there's a lemma saying that if p isn't a prime then p-smooth = p+1 - smooth, which implies your claim. I'd be happy with or without this one

File: Mathlib/Data/Finset/Card.lean [hunk 19]
```diff
@@ -130,13 +130,13 @@ theorem card_doubleton (h : a ≠ b) : ({a, b} : Finset α).card = 2 := by
...
 
-/-- $\#(s \setminus \{a\}) = \#s - 1$ if $a \in s$. -/
+/-- $\\#(s \setminus \\{a\\}) = \\#s - 1$ if $a \in s$. -/
 @[simp]
 theorem card_erase_of_mem : a ∈ s → (s.erase a).card = s.card - 1 :=
   Multiset.card_erase_of_mem
 #align finset.card_erase_of_mem Finset.card_erase_of_mem
 
-/-- $\#(s \setminus \{a\}) = \#s - 1$ if $a \in s$.
+/-- $\\#(s \setminus \\{a\\}) = \\#s - 1$ if $a \in s$.
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Card.lean:139]: As commented on Zulip, I think this is indicative of our markdown parser having issues, that we should fix there instead.

**Review by loefflerd — APPROVED** [review]
LGTM. Looks like others have already stepped forward to critique the code in detail so I'll just add a general up-vote in favour. Looking forward to the next instalment.

File: Mathlib/NumberTheory/PrimeCounting.lean [hunk 20]
```diff
@@ -3,11 +3,9 @@ Copyright (c) 2021 Bolton Bailey. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Bolton Bailey
 -/
-import Mathlib.Data.Nat.PrimeFin
 import Mathlib.Data.Nat.Totient
-import Mathlib.Data.Finset.LocallyFinite
-import Mathlib.Data.Nat.Count
 import Mathlib.Data.Nat.Nth
+import Mathlib.NumberTheory.SmoothNumbers
```
Comment (ericrbg) [inline Mathlib/NumberTheory/PrimeCounting.lean:8]: This file is a leaf so it's probably fine, but I think these days we're hesitant about changing/adding imports, fwiw

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 21]
```diff
@@ -0,0 +1,150 @@
...
+  rw [primesBelow, primesBelow, Finset.range_succ, Finset.filter_insert]
+
+lemma not_mem_primesBelow (n : ℕ) : n ∉ primesBelow n :=
+  fun hn ↦ (lt_of_mem_primesBelow hn).false
+
+/-- `smoothNumbers n` is the set of *`n`-smooth positive natural numbers*, i.e., the
+positive natural numbers all of whose prime factors are less than `n`. -/
+def smoothNumbers (n : ℕ) : Set ℕ := {m | m ≠ 0 ∧ ∀ p ∈ factors m, p < n}
+
+lemma mem_smoothNumbers {n m : ℕ} : m ∈ smoothNumbers n ↔ m ≠ 0 ∧ ∀ p ∈ factors m, p < n :=
```
Comment (ericrbg) [inline Mathlib/NumberTheory/SmoothNumbers.lean:47]: maybe we want a lemma that says it's equivalent to `∀p, p | m => p < n`, that way zero can get excluded automatically too

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 22]
```diff
@@ -0,0 +1,150 @@
...
+         fun hm ↦ ⟨hm.1, fun p hp ↦ (hm.2 p hp).trans <| lt.base N⟩⟩
+  exact lt_of_le_of_ne (lt_succ.mp <| hm.2 p hp) fun h ↦ hN <| h ▸ prime_of_mem_factors hp
+
+@[simp] lemma smoothNumbers_one : smoothNumbers 1 = {1} := by simp [smoothNumbers_succ]
+
+@[gcongr] lemma smoothNumbers_mono {N M : ℕ} (hNM : N ≤ M) : N.smoothNumbers ⊆ M.smoothNumbers :=
+  fun _ hx ↦ ⟨hx.1, fun p hp => (hx.2 p hp).trans_le hNM⟩
+
+/-- The non-zero non-`N`-smooth numbers are `≥ N`. -/
+lemma smoothNumbers_compl (N : ℕ) : (N.smoothNumbers)ᶜ \ {0} ⊆ {n | N ≤ n} := by
```
Comment (ericrbg) [inline Mathlib/NumberTheory/SmoothNumbers.lean:81]: I thought 0 isn't smooth anyways?

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 23]
```diff
@@ -0,0 +1,150 @@
...
+
+/-- If `p` is positive and `n` is `p`-smooth, then every product `p^e * n` is `(p+1)`-smooth. -/
+lemma pow_mul_mem_smoothNumbers {p n : ℕ} (hp : p ≠ 0) (e : ℕ) (hn : n ∈ smoothNumbers p) :
+    p ^ e * n ∈ smoothNumbers (succ p) := by
+  have hp' := pow_ne_zero e hp
+  refine ⟨mul_ne_zero hp' hn.1, fun q hq ↦ ?_⟩
+  rcases (mem_factors_mul hp' hn.1).mp hq with H | H
+  · rw [mem_factors hp'] at H
+    exact lt_succ.mpr <| le_of_dvd hp.bot_lt <| Prime.dvd_of_dvd_pow H.1 H.2
+  · exact (hn.2 q H).trans <| lt.base p
```
Comment (ericrbg) [inline Mathlib/NumberTheory/SmoothNumbers.lean:96]: i've never seen `lt.base` used; is there a better lemma for it?

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 24]
```diff
@@ -0,0 +1,150 @@
...
+  exact hm₂.trans <| le_of_mem_factors hm₁
+
+/-- If `p` is positive and `n` is `p`-smooth, then every product `p^e * n` is `(p+1)`-smooth. -/
+lemma pow_mul_mem_smoothNumbers {p n : ℕ} (hp : p ≠ 0) (e : ℕ) (hn : n ∈ smoothNumbers p) :
+    p ^ e * n ∈ smoothNumbers (succ p) := by
+  have hp' := pow_ne_zero e hp
+  refine ⟨mul_ne_zero hp' hn.1, fun q hq ↦ ?_⟩
+  rcases (mem_factors_mul hp' hn.1).mp hq with H | H
+  · rw [mem_factors hp'] at H
+    exact lt_succ.mpr <| le_of_dvd hp.bot_lt <| Prime.dvd_of_dvd_pow H.1 H.2
```
Comment (ericrbg) [inline Mathlib/NumberTheory/SmoothNumbers.lean:95]:
```suggestion
    exact lt_succ.mpr <| le_of_dvd hp.bot_lt <| H.1.dvd_of_dvd_pow H.2
```

**Review by ericrbg — COMMENTED** [review]
small nits

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 22 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:81]: Exactly, so 0 is in the complement, so without removing it, the statement would be false.

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 23 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:96]: I guess this is what `exact?` gives you. Will replace by [lt_succ_self](https://leanprover-community.github.io/mathlib4_docs/Init/Data/Nat/Basic.html#Nat.lt_succ_self).

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 24 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:95]: OK.

File: Mathlib/NumberTheory/PrimeCounting.lean (hunk 20 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/PrimeCounting.lean:8]: The alternatives would be
1. add `Mathlib.NumberTheory.PrimeCouting` as an import to the new file and put the lemma there. This import would be needed for this statement *only*, so I was hesitant, since this new file will not stay a leaf file.
2. have a separate file for this one lemma with the two relevant imports.

I'm fine with all possibilities. I just would like some consensus what the preferred solution should be.

File: Mathlib/NumberTheory/SmoothNumbers.lean (hunk 21 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:47]: That statement is wrong: 4 is in `smoothNumbers 3` and `4 ∣ 4`, but `4 < 3` is false.

Comment (ericrbg) [reply Mathlib/NumberTheory/SmoothNumbers.lean:47]: for primes `p`?

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SmoothNumbers.lean:47]: OK; that works. I'm adding
```lean
/-- `m` is `n`-smooth if and only if all prime divisors of `m` are less than `n`. -/
lemma mem_smoothNumbers' {n m : ℕ} : m ∈ smoothNumbers n ↔ ∀ p, p.Prime → p ∣ m → p < n := ...
```

File: Mathlib/NumberTheory/PrimeCounting.lean (hunk 20 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/PrimeCounting.lean:8]: If no more comments are made, then I suggest to leave it as it is now.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
